### PR TITLE
feat(ErdosProblems): 516

### LINKED ISSUE #766: Erdős Problem 516
### What is the conjecture
    
https://www.erdosproblems.com/516

  Let $f(z)=\sum_{k\geq 1}a_k z^{n_k}$ be an entire function of finite order such that $\lim n_k/k=\infty$. Let $M(r)=\max_{\lvert z\rvert=r}\lvert f(z)\rvert$ and $m(r)=\max_n \lvert a_nr^n\rvert$. Is it true that
$$\limsup\frac{\log m(r)}{\log M(r)}=1?$$

  

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by CoolRmal**
Closes #766

### CODE REVIEW

File: FormalConjectures/ErdosProblems/516.lean [hunk 1]
```diff
@@ -0,0 +1,67 @@
...
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 516
+*Reference:*
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/516.lean]:
```suggestion
*References:*
```

File: FormalConjectures/ErdosProblems/516.lean [hunk 2]
```diff
@@ -0,0 +1,67 @@
...
+-/
+
+open scoped Real Nat
+open Set Filter
+
+/-- An entire function `f` is said to be of finite order if there exist numbers c, a ≥ 0
+such that for all `z`, `‖f z‖ ≤ c * rexp ‖z‖ ^ a`. -/
+def ofFiniteOrder {E F: Type*} [NormedAddCommGroup E] [NormedSpace ℂ E]
+    [NormedAddCommGroup F] [NormedSpace ℂ F] (f : E → F) : Prop :=
+  Differentiable ℂ f ∧ ∃ c ≥ 0, ∃ a ≥ 0, ∀ z, ‖f z‖ ≤ c * rexp ‖z‖ ^ a
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/516.lean]:
```suggestion
  Differentiable ℂ f ∧ ∃ c ≥ 0, ∃ a ≥ 0, ∀ z, ‖f z‖ ≤ c * rexp (‖z‖ ^ a)
```

This makes a difference:  `(rexp ‖z‖ ^ a) = rexp (a * ‖z‖) `

File: FormalConjectures/ErdosProblems/516.lean [hunk 3]
```diff
@@ -0,0 +1,67 @@
...
+    (hn : HasFabryGaps n) {a : ℕ → ℂ} (hfn : ∀ z, HasSum (fun k => a k * z ^ n k) (f z))
+    (hf : ofFiniteOrder f) :
+    limsup (fun r => ratio r f) atTop = 1 := by
+  sorry
+
+/-- Let `f = ∑ aₖzⁿₖ` be a entire function such that `nₖ > k (log k) ^ (2 + c)`.
+Then `limsup (fun r => ratio r f) atTop = 1`. This is proved in [Ko65]. -/
+@[category research solved, AMS 30]
+theorem erdos_516.limsup_ratio_eq_one {f : ℂ → ℂ} {n : ℕ → ℕ}
+    (hn : ∃ c > 0, ∀ k, n k >  k * (k.log) ^ (2 + c)) {a : ℕ → ℂ}
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/516.lean]:
```suggestion
    (hn : ∃ c > 0, ∀ k, n k >  k * ((k : ℝ).log) ^ (2 + c)) {a : ℕ → ℂ}
```
Otherwise it is using `Nat.log`?

File: FormalConjectures/ErdosProblems/516.lean [hunk 4]
```diff
@@ -0,0 +1,67 @@
...
+    (hfn : ∀ z, HasSum (fun k => a k * z ^ n k) (f z)) :
+    limsup (fun r => ratio r f) atTop = 1 := by
+  sorry
+
+/-- Is it true that for all entire functions `f = ∑ aₖzⁿₖ` such that `∑' 1 / nₖ < ∞`,
+`limsup (fun r => ratio r f) atTop = 1`? -/
+@[category research open, AMS 30]
+theorem erdos_516.limsup_ratio_eq_one_Fejer : answer(sorry) ↔
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/516.lean]:
```suggestion
@[category research solved, AMS 30]
theorem erdos_516.limsup_ratio_eq_one_Fejer : answer(True) ↔
```

This has very recently been marked "proved", right?

Comment (CoolRmal) [reply FormalConjectures/ErdosProblems/516.lean]: On https://www.erdosproblems.com/516, it is said that "It is conjectured that this condition can be replaced with ∑1 / nₖ<∞", so I believe this is still open.

File: FormalConjectures/ErdosProblems/516.lean [hunk 5]
```diff
@@ -0,0 +1,70 @@
...
+ - [Ko65] Kövari, Thomas, A gap-theorem for entire functions of infinite order. Michigan Math. J.
+    (1965), 133--140.
+-/
+
+open scoped Real Nat
+open Set Filter
+
+/-- An entire function `f` is said to be of finite order if there exist numbers c, a ≥ 0
+such that for all `z`, `‖f z‖ ≤ c * rexp (‖z‖ ^ a)`. -/
+def ofFiniteOrder {E F: Type*} [NormedAddCommGroup E] [NormedSpace ℂ E]
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/516.lean]:
```suggestion
def OfFiniteOrder {E F: Type*} [NormedAddCommGroup E] [NormedSpace ℂ E]
```
since it's a Prop

File: FormalConjectures/ErdosProblems/516.lean [hunk 6]
```diff
@@ -0,0 +1,70 @@
...
+    [NormedAddCommGroup F] [NormedSpace ℂ F] (f : E → F) : Prop :=
+  Differentiable ℂ f ∧ ∃ c ≥ 0, ∃ a ≥ 0, ∀ z, ‖f z‖ ≤ c * rexp (‖z‖ ^ a)
+
+namespace Erdos516
+
+noncomputable def ratio (r : ℝ) (f : ℂ → ℂ) : ℝ :=
+  (⨅ z : {z : ℂ // ‖z‖ = r}, ‖f z‖).log / (⨆ z : {z : ℂ // ‖z‖ = r}, ‖f z‖).log
+
+/-- Let `f = ∑ aₖzⁿₖ` be a entire function of finite order such that `nₖ / k → ∞`.
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/516.lean]:
```suggestion
/-- Let `f = ∑ aₖzⁿₖ` be an entire function of finite order such that `nₖ / k → ∞`.
```
and same below

File: FormalConjectures/ErdosProblems/516.lean [hunk 7]
```diff
@@ -0,0 +1,70 @@
...
+Then `limsup (fun r => ratio r f) atTop = 1`. This is proved in [Fu63]. -/
+@[category research solved, AMS 30]
+theorem erdos_516.limsup_ratio_eq_one_Fabry_ofFiniteOrder {f : ℂ → ℂ} {n : ℕ → ℕ}
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/516.lean]:
```suggestion
theorem erdos_516.limsup_ratio_eq_one_of_hasFabryGaps_ofFiniteOrder {f : ℂ → ℂ} {n : ℕ → ℕ}
```

File: FormalConjectures/ErdosProblems/516.lean [hunk 8]
```diff
@@ -0,0 +1,70 @@
...
+theorem erdos_516.limsup_ratio_eq_one {f : ℂ → ℂ} {n : ℕ → ℕ}
+    (hn : ∃ c > 0, ∀ k, n k >  k * ((k : ℝ).log) ^ (2 + c)) {a : ℕ → ℂ}
+    (hfn : ∀ z, HasSum (fun k => a k * z ^ n k) (f z)) :
+    limsup (fun r => ratio r f) atTop = 1 := by
+  sorry
+
+/-- Is it true that for all entire functions `f = ∑ aₖzⁿₖ` such that `∑' 1 / nₖ < ∞`,
+`limsup (fun r => ratio r f) atTop = 1`? -/
+@[category research open, AMS 30]
+theorem erdos_516.limsup_ratio_eq_one_Fejer : answer(sorry) ↔
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/516.lean]:
```suggestion
theorem erdos_516.limsup_ratio_eq_one_of_hasFejerGaps : answer(sorry) ↔
```

File: FormalConjectures/ErdosProblems/516.lean [hunk 9]
```diff
@@ -0,0 +1,70 @@
...
+    (hn : HasFabryGaps n) {a : ℕ → ℂ} (hfn : ∀ z, HasSum (fun k => a k * z ^ n k) (f z))
+    (hf : ofFiniteOrder f) :
+    limsup (fun r => ratio r f) atTop = 1 := by
+  sorry
+
+/-- Let `f = ∑ aₖzⁿₖ` be an entire function such that `nₖ > k (log k) ^ (2 + c)`.
+Then `limsup (fun r => ratio r f) atTop = 1`. This is proved in [Ko65]. -/
+@[category research solved, AMS 30]
+theorem erdos_516.limsup_ratio_eq_one {f : ℂ → ℂ} {n : ℕ → ℕ}
+    (hn : ∃ c > 0, ∀ k, n k >  k * ((k : ℝ).log) ^ (2 + c)) {a : ℕ → ℂ}
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/516.lean]:
```suggestion
    (hn : ∃ c > (0 : ℝ), ∀ k, n k > k * log k ^ (2 + c) {a : ℕ → ℂ}
```

File: FormalConjectures/ErdosProblems/516.lean [hunk 10]
```diff
@@ -0,0 +1,70 @@
...
+*References:*
+ - [erdosproblems.com/516](https://www.erdosproblems.com/516)
+ - [Fu63] Fuchs, W. H. J., Proof of a conjecture of G. Pólya concerning gap series. Illinois J.
+    Math. (1963), 661--667.
+ - [Ko65] Kövari, Thomas, A gap-theorem for entire functions of infinite order. Michigan Math. J.
+    (1965), 133--140.
+-/
+
+open scoped Real Nat
+open Set Filter
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/516.lean]:
```suggestion
open scoped Nat
open Filter Real Set
```

File: FormalConjectures/ErdosProblems/516.lean [hunk 11]
```diff
@@ -0,0 +1,70 @@
...
+
+noncomputable def ratio (r : ℝ) (f : ℂ → ℂ) : ℝ :=
+  (⨅ z : {z : ℂ // ‖z‖ = r}, ‖f z‖).log / (⨆ z : {z : ℂ // ‖z‖ = r}, ‖f z‖).log
+
+/-- Let `f = ∑ aₖzⁿₖ` be an entire function of finite order such that `nₖ / k → ∞`.
+Then `limsup (fun r => ratio r f) atTop = 1`. This is proved in [Fu63]. -/
+@[category research solved, AMS 30]
+theorem erdos_516.limsup_ratio_eq_one_of_hasFabryGaps_ofFiniteOrder {f : ℂ → ℂ} {n : ℕ → ℕ}
+    (hn : HasFabryGaps n) {a : ℕ → ℂ} (hfn : ∀ z, HasSum (fun k => a k * z ^ n k) (f z))
+    (hf : ofFiniteOrder f) :
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/516.lean]:
```suggestion
    (hf : OfFiniteOrder f) :
```
